US04463173
To a solution of 1,2-di(t-butoxycarbonylamino)-3-hydroxypropane (3 g.) and triethylamine (2 ml.) in CH2Cl2 (30 ml.) at 0° was added methanesulphonyl chloride (1.0 ml.) with stirring. Stirring at this temperature was continued for 1 hour and the mixture was then washed with water. The organic layer was separated, dried and the solvent evaporated to give 1,2-di(t-butoxycarbonylamino)-3-methanesulphonyloxypropane (2.9 g.), m.p. 94°-96°.

reactant | 1,2-di(t-butoxycarbonylamino)-3-hydroxypropane | 3 g | C(C)(C)(C)OC(=O)NCC(CO)NC(=O)OC(C)(C)C | C13H26N2O5
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 1.0 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 1,2-di(t-butoxycarbonylamino)-3-methanesulphonyloxypropane | 2.9 g | C(C)(C)(C)OC(=O)NCC(COS(=O)(=O)C)NC(=O)OC(C)(C)C | C14H28N2O7S
